US08729082B2
(1-bromo-imidazo[1,2-a]quinoxalin-4-yl)isobutyl-amine (20 mg, 0.07 mmol), [4-[(cyclopropylamino)carbonyl]phenyl]-boronic acid (21.8 mg, 0.11 mmol), Pd(dppf)Cl2 (1.26 mg, 0.007 mmol) and potassium carbonate (212 μL, 1M in water) were combined in 2 mL NMP in a sealed vial and heated at 140° C. under microwave irradiation for 40 min. After cooling, the solution was filtered and subjected to preparative HPLC to give N-cyclopropyl-4-(4-isobutylamino-imidazo[1,2-a]quinoxalin-1-yl)-benzamide (2.86 mg, 10%): 1H-NMR (300 MHz, d6-DMSO): δ=8.60 (1H, d), 7.97 (2H, d), 7.71 (1H, t), 7.69 (2H, d), 7.54 (1H, d), 7.52 (1H, s), 7.28 (1H, dd), 7.19 (1H, d), 6.91 (1H, dd), 3.39 (2H, dd), 2.86 (1H, m), 2.09 (1H, sept), 0.96 (6H, d), 0.70 (2H, d), 0.55 (2H, d) ppm; UPLC-MS: RT=1.14 min; m/z (ES+) 400.4 [MH+]; required MW=399.5.

reactant | (1-bromo-imidazo[1,2-a]quinoxalin-4-yl)isobutyl-amine | 0.07 mmol, 20 mg | BrC1=CN=C2N1C1=CC=CC=C1N=C2NCC(C)C | C14H15BrN4
reactant | [4-[(cyclopropylamino)carbonyl]phenyl]-boronic acid | 0.11 mmol, 21.8 mg | C1(CC1)NC(=O)C1=CC=C(C=C1)B(O)O | C10H12BNO3
reactant | potassium carbonate | 1M, 212 μL | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
catalyst | Pd(dppf)Cl2 | 0.007 mmol, 1.26 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-cyclopropyl-4-(4-isobutylamino-imidazo[1,2-a]quinoxalin-1-yl)-benzamide | 2.86 mg, 10% | C1(CC1)NC(C1=CC=C(C=C1)C1=CN=C2N1C1=CC=CC=C1N=C2NCC(C)C)=O | C24H25N5O
